US04988385
Preparation of 2-(3-phenoxybenzoyl)-3-dimethylaminoacrylonitrile
3-Phenoxybenzoylacetonitrile (4 g) and trimethylorthoformate (30 ml) was stirred and heated to 80° C. for 2 hours. After cooling to 0° C., an excess of dimethylamine in ethanol solution was added and the mixture stirred for 2 hours at room temperature. The volatiles were then removed in vacuo and the residue chromatographed on a silica gel column using 5% methanol-dichloromethane (v/v) as eluant to give the title compound (3.2 g, 65%) as a white solid of m.p. 80°-82° C.

reactant | 3-Phenoxybenzoylacetonitrile | 4 g | O(C1=CC=CC=C1)C=1C=C(C(=O)CC#N)C=CC1 | C15H11NO2
reactant | trimethylorthoformate | 30 ml | COC(OC)OC | C4H10O3
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | C(C)O | C2H6O
product | 2-(3-phenoxybenzoyl)-3-dimethylaminoacrylonitrile | 3.2 g, 65% | O(C1=CC=CC=C1)C=1C=C(C(=O)C(C#N)=CN(C)C)C=CC1 | C18H16N2O2
